US07692005B2
6-{3-[(2,5-Dimethyl-2H-pyrazol-3-ylmethyl)-amino]-benzoyl}-1,3-dihydro-indol-2-one (0.100 g, 0.278 mmol) and ethyl formate (0.066 mL, 0.834 mmol) were dissolved in anhydrous ethanol (0.600 mL). The resulting solution was treated in dropwise fashion with a 21 wt % solution of sodium ethoxide in ethanol (0.519 mL, 1.39 mmol). This reaction mixture was heated at 78° C. for 1 h, producing a black oil. The reaction mixture was cooled to room temperature, and then the reaction pH was adjusted to pH 1 with dropwise addition of 1M HCl(aq) causing the formation of a tan precipitate. The suspension was filtered yielding 6-{3-[(2,5-Dimethyl-2H-pyrazol-3-ylmethyl)-amino]-benzoyl}-3-hydroxymethylene-1,3-dihydro-indol-2-one as an orange solid in 42% yield (0.045 g, 0.117 mmol). (prepared below, 0.021 g, 0.056 mmol)

reactant | 6-{3-[(2,5-Dimethyl-2H-pyrazol-3-ylmethyl)-amino]-benzoyl}-1,3-dihydro-indol-2-one | 0.278 mmol, 0.100 g | CN1N=C(C=C1CNC=1C=C(C(=O)C2=CC=C3CC(NC3=C2)=O)C=CC1)C | C21H20N4O2
reactant | ethyl formate | 0.834 mmol, 0.066 mL | C(=O)OCC | C3H6O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | ethanol | 0.600 mL | C(C)O | C2H6O
solvent | ethanol | 1.39 mmol, 0.519 mL | C(C)O | C2H6O
product | 6-{3-[(2,5-Dimethyl-2H-pyrazol-3-ylmethyl)-amino]-benzoyl}-3-hydroxymethylene-1,3-dihydro-indol-2-one | 42% yield | CN1N=C(C=C1CNC=1C=C(C(=O)C2=CC=C3C(C(NC3=C2)=O)=CO)C=CC1)C | C22H20N4O3
